US04154844
N-[2-(2-(2-Benzimidazolyl)ethylamino)ethyl]-N'-cyano-N"-methylguanidine
Reacting 2-(2-chloroethyl)benzimidazole with ethylenediamine by the procedure of Example 34, then reacting one resulting N-[2-(2-benzimidazolyl)ethyl]-ethylenediamine with N-cyano-N',S-dimethylisothiourea by the procedure of Example 3(a) gives the title compound.

reactant | 2-(2-chloroethyl)benzimidazole | ClCCC=1NC2=C(N1)C=CC=C2 | C9H9ClN2
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | N-[2-(2-benzimidazolyl)ethyl]-ethylenediamine | N1=C(NC2=C1C=CC=C2)CCNCCN | C11H16N4
reactant | N-cyano-N',S-dimethylisothiourea | C(#N)NC(SC)=NC | C4H7N3S
product | N-[2-(2-(2-Benzimidazolyl)ethylamino)ethyl]-N'-cyano-N"-methylguanidine | N1=C(NC2=C1C=CC=C2)CCNCCNC(=NC)NC#N | C14H19N7
